US07390923B2
2-Methyl-N-(2-methyl-4-nitrophenyl)acrylamide was prepared as described in Example 1a starting from 2-methyl-4-nitroaniline and methacryloyl chloride. 1H NMR (400 MHz, DMSO-d6): 1.98 (3H, s), 2.34 (3H, s), 5.59 (1H, s), 5.91 (1H, s), 7.74 (1H, d, J=8.8 Hz), 8.07 (1H, dd, J=8.8 Hz, J=2.7 Hz), 8.15 (1H, d, J=2.6 Hz), 9.53 (1H, s).

reactant | 2-methyl-4-nitroaniline | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | 2-Methyl-N-(2-methyl-4-nitrophenyl)acrylamide | CC(C(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C)=C | C11H12N2O3
